US20010027196A1
2-Amino-4-(2-phenylamino-ethylamino)-6-pyridin-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile and N-phenylethylenediamine in DME. ES-MS m/e (%): 332 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C1=NC=CC=C1 | C11H9N5OS
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-phenylamino-ethylamino)-6-pyridin-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNC1=CC=CC=C1)C#N)C1=NC=CC=C1 | C18H17N7
